US07276516B2
2-Fluoro-isonicotinonitrile
Treat a solution of 2-chloro-4-cyanopyridine (6.0 g, 43.5 mmol) and potassium fluoride (7.56 g, 130.3 mmol) in 1-methyl-2-pyrrolidinone (20 mL) with tetrabutylphosphonium bromide (14.8 g, 43.7 mmol) and heat to 100° C. for 18 hours. Dilute with water and extract with EtOAc. Wash EtOAc with water, brine, dry with Na2SO4, and concentrate to give the title compound (2.3 g, 43%). MS (ES) 123.1 (M+1)+. 1H NMR (400 MHz, CHCl3) δ 8.43 (d, 1H, J=5.2 Hz), 7.45 (m, 1H), 7.22 (m, 1H).

reactant | 2-chloro-4-cyanopyridine | 43.5 mmol, 6.0 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | potassium fluoride | 130.3 mmol, 7.56 g | [F-].[K+]
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
catalyst | tetrabutylphosphonium bromide | 43.7 mmol, 14.8 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2-Fluoro-isonicotinonitrile | 2.3 g, 43% | FC=1C=C(C#N)C=CN1 | C6H3FN2
